US06974812B2
(D) 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-N-(1-hydroxy-cycloheptylmethyl)-2-methyl-benzamide
A slurry of 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzoic acid (5.0 g, 20.2 mmol), 1-aminomethyl-cycloheptanol HCl (5.4 g, 30.3 mmol), EDCI (5.8 g), and DMAP (7.4 g, 60.6 mmol) in DMF (67.3 mL) was stirred at ambient temperature for 14 hours. The reaction was then poured into 1N HCl (50 mL) and diluted with water (15 fold). The aqueous was extracted with CH2Cl2 (3×). The organics were combined, washed with brine, dried over sodium sulfate, and concentrated in vacuo to give a tan solid. The crude was recrystallized from CH2Cl2 to give the title compound as an off-white solid (3.1 g).

reactant | 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzoic acid | 20.2 mmol, 5.0 g | O=C1N(N=CC(N1)=O)C=1C=CC(=C(C(=O)O)C1)C | C11H9N3O4
reactant | 1-aminomethyl-cycloheptanol HCl | 30.3 mmol, 5.4 g | Cl.NCC1(CCCCCC1)O
reactant | EDCI | 5.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl | 1N, 50 mL | Cl | ClH
catalyst | DMAP | 60.6 mmol, 7.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 67.3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-N-(1-hydroxy-cycloheptylmethyl)-2-methyl-benzamide | 3.1 g | O=C1N(N=CC(N1)=O)C=1C=CC(=C(C(=O)NCC2(CCCCCC2)O)C1)C | C19H24N4O4
